US05409943
(b) N-(3-(2-Fluorobenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride
A mixture of 2-amino-3-(2-fluorobenzyloxy)pyridine (4.36 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol) and recrystallisation from ethanol/ether to obtain the product (0.36 g), m.p. 160°-165° C.

reactant | 2-amino-3-(2-fluorobenzyloxy)pyridine | 20 mmol, 4.36 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)F | C12H11FN2O
reactant | ethyl phenylacetimidate hydrochloride | 22 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2-Fluorobenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride | 0.36 g | Cl.FC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=CC=C1 | InChI=1S/C20H18FN3O.ClH/c21-17-10-5-4-9-16(17)14-25-18-11-6-12-23-20(18)24-19(22)13-15-7-2-1-3-8-15;/h1-12H,13-14H2,(H2,22,23,24);1H
